US04804773
A strip of aluminum foil weighing 264 mg (9.8 mmol) was amalgamated by immersion in a solution of 2% mercuric chloride in water for 15 seconds, washed with absolute ehtanol followed by diethyl ether, cut into small pieces, and added to a solution of 412 mg of 96% pure (0.98 mmol) 2,6-di-tert-butyl-4-triethylsiloxy-4-trifluoromethyl-2,5-cyclohexadien-1-one in 25 mL of 10% water - 90% tetrahydrofuran. The resulting mixture was heated at 70° C. for 1.5 hours, allowed to cool to room temperature, and filtered. The filter cake was washed with tetrahydrofuran. Concentration of the combined filtrates gave a residue which was poured into 25 mL of water. The aqueous mixture was extracted with three 10 mL portions of dichloromethane. Combination, drying (MgSO4), and concentration of the organic layers gave a residue which was purified by PTLC (one 2 mm silica gel plate eluted with petroleum ether), affording 247 mg of 95% pure (87% yield) 1,6-di-tert-butyl-4-trifluoromethylphenol. An analytical sample was obtained by crystallization from methanol: mp 78°-80° C.; 1H NMR (CDCl3)δ1.45 (s, 18H), 5.56 (broad s, 1H), 7.50 (s, 1H); 19F NMR (CDCl3, relative to CFCl3)-61.7 ppm (s); IR (KBr) 3632, 2963, 1337, 1319, 1241, 1167, 1141, 1109, 893, 668 cm-1 ; mass spectrum (70 eV) m/z (relative intensity) 274 (20, M+), 259 (100), 231 (28), 57 (57), 41 (54). Anal. Calcd. for C15H21F3O: C, 65.67; H, 7.72. Found: C, 65.46; H, 7.94.

reactant | aluminum | [Al] | Al
reactant | 2,6-di-tert-butyl-4-triethylsiloxy-4-trifluoromethyl-2,5-cyclohexadien-1-one | 0.98 mmol | C(C)(C)(C)C=1C(C(=CC(C1)(C(F)(F)F)O[Si](CC)(CC)CC)C(C)(C)C)=O | C21H35F3O2Si
solvent | water | O | H2O
solvent | water | 25 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 1,6-di-tert-butyl-4-trifluoromethylphenol | 87% yield | C(C)(C)(C)C1(CC=C(C=C1C(C)(C)C)C(F)(F)F)O | C15H23F3O
